US07531545B2
To a solution of 4-(S)-cyclohexyl-4-[(5-nitro-2-phenoxy-pyridin-4-ylmethyl)-amino]-butyric acid tert-butyl ester (4.8 g, 10.2 mmol) in MeOH (50 mL) was added 10% Pd on activated carbon (0.8 g) under N2. The resulting mixture was subjected to hydrogenation at 5 psi for 2 hours. The catalyst was removed by filtration, and the MeOH was evaporated in vacuo to yield 4-[(5-amino-2-phenoxy-pyridin-4-ylmethyl)-amino]-4-(S)-cyclohexyl-butyric acid tert-butyl ester as an oil.

reactant | 4-(S)-cyclohexyl-4-[(5-nitro-2-phenoxy-pyridin-4-ylmethyl)-amino]-butyric acid tert-butyl ester | 10.2 mmol, 4.8 g | C(C)(C)(C)OC(CC[C@H](NCC1=CC(=NC=C1[N+](=O)[O-])OC1=CC=CC=C1)C1CCCCC1)=O | C26H35N3O5
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd on activated carbon | 0.8 g | [Pd] | Pd
product | 4-[(5-amino-2-phenoxy-pyridin-4-ylmethyl)-amino]-4-(S)-cyclohexyl-butyric acid tert-butyl ester | C(C)(C)(C)OC(CC[C@@H](C1CCCCC1)NCC1=CC(=NC=C1N)OC1=CC=CC=C1)=O | C26H37N3O3
